US08791161B2
N-[2-(benzylthio)-5-chlorophenyl]-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (235 mg) was prepared from 2-(benzylthio)-5-chloroaniline(509 mg, 2.052 mmol) and benzofuran-2-sulfonyl chloride (443 mg, 2.052 mmol) in pyridine (5 ml).

reactant | 2-(benzylthio)-5-chloroaniline | 2.052 mmol, 509 mg | C(C1=CC=CC=C1)SC1=C(N)C=C(C=C1)Cl | C13H12ClNS
reactant | benzofuran-2-sulfonyl chloride | 2.052 mmol, 443 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(benzylthio)-5-chlorophenyl]-1-benzofuran-2-sulfonamide | 235 mg | C(C1=CC=CC=C1)SC1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C21H16ClNO3S2
